US09328111B2
Step 2: Methyl 5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate hydrobromide
To a solution of methyl 2-benzyl-9-bromo-5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate (6.6 g, 15.4 mmol) in MeOH (100 mL) was added Pd/C (3.0 g, 5%, 50% water), the mixture was stirred at atmosphere of hydrogen for about 6.0 h. Then the mixture was filtered, washed with MeOH (20 mL). The filtrate was concentrated and the residue was recrystallized with MeOH (2.5 mL) to afford the product (3.4 g, 65%) as a white solid. 1H NMR (DMSO-d6) δ 12.0 (s, 1H), 9.18 (s, 1H), 7.61-7.72 (m, 2H), 7.22-7.23 (m, 1H), 4.32 (s, 2H), 3.81 (s, 3H), 3.38-3.40 (m, 2H), and 2.66-2.67 (m, 2H).

reactant | methyl 2-benzyl-9-bromo-5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate | 15.4 mmol, 6.6 g | C(C1=CC=CC=C1)N1CCC=2C(C3=C(NC2C1)C(=CC=C3C(=O)OC)Br)=O | C21H19BrN2O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 3.0 g | [Pd] | Pd
product | Methyl 5-oxo-1,2,3,4,5,10-hexahydrobenzo[b][1,7]naphthyridine-6-carboxylate hydrobromide | 3.4 g, 65% | Br.O=C1C2=C(NC=3CNCCC13)C=CC=C2C(=O)OC | InChI=1S/C14H14N2O3.BrH/c1-19-14(18)9-3-2-4-10-12(9)13(17)8-5-6-15-7-11(8)16-10;/h2-4,15H,5-7H2,1H3,(H,16,17);1H
